US08871797B2
Step 5: Preparation of 1-(2,4-Difluoro-phenyl)-3-[4-methoxy-3-(2H-pyrazol-3-yl)-phenyl]-urea
To a solution of 1-[3-(3-Diethylamino-acryloyl)-4-methoxy-phenyl]-3-(2,4-difluoro-phenyl)-urea (1.5 g, 3.72 mmole) in methanol/acetic acid (50 mL/2.0 mL) mixture was added hydrazine (0.82 g, 37.22 mmole). The reaction mixture was refluxed at 55 C for 20 hrs. The methanol/acetic acid was evaporated from the reaction mixture and the solid was triturated with ether/methanol. The solid was filtered and washed with ether. Next, the solid was dried in vacuo to furnish a colorless solid (1.0 g, 76%). LCMS m/z (%)=345 (M+H, 100), 1H NMR (Bruker, 400 MHz, DMSO-d6) δ: 13.0 (bs, 1H), 8.89 (bs, 1H), 8.37 (bs, 1H), 8.09-810 (d, J=6.05 Hz, 1H), 7.74-7.97 (bs, 1H), 7.52-7.64 (bs, 1H), 7.39-7.40 (d, J=5.94 Hz, 1H), 7.27-7.32 (m, 2H), 7.01-7.09 (m, 2H), 6.73 (s, 1H), 3.82 (s, 3H) (major tautomer).

reactant | 1-[3-(3-Diethylamino-acryloyl)-4-methoxy-phenyl]-3-(2,4-difluoro-phenyl)-urea | 3.72 mmole, 1.5 g | C(C)N(C=CC(=O)C=1C=C(C=CC1OC)NC(=O)NC1=C(C=C(C=C1)F)F)CC | C21H23F2N3O3
reactant | hydrazine | 37.22 mmole, 0.82 g | NN | H4N2
solvent | methanol acetic acid | 50 mL | CO.C(C)(=O)O
product | 1-(2,4-Difluoro-phenyl)-3-[4-methoxy-3-(2H-pyrazol-3-yl)-phenyl]-urea | 1.0 g, 76% | FC1=C(C=CC(=C1)F)NC(=O)NC1=CC(=C(C=C1)OC)C=1NN=CC1 | C17H14F2N4O2
